US07414050B2
d) 4-(4-Nitro-phenyl)-piperidine-2,6-dione
A suspension of 22.8 g (64.2 mmol) of 1-(4-methoxy-benzyl)-4-(4-nitro-phenyl)-piperidine-2,6-dione (as prepared in the previous step) in CH3CN (150 mL) was treated with 70.4 g (128 mmol) of ceric ammonium nitrate (CAN) as a solution in water (100 mL). The mixture was stirred at RT for 5 h, diluted with water (100 mL), and extracted with EtOAc (2×150 mL). The combined organic layers were washed with saturated aqueous NaHCO3 (1×100 mL) and water (1×100 mL). The combined aqueous layers were extracted with EtOAc (1×100 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo. The solid residue was triturated with a minimum amount of CH3CN, filtered, and air-dried. The filtrate was concentrated and triturated again with a minimum amount of CH3CN, filtered, and air-dried as a second batch. The two batches were combined to afford 7.00 g (47%) as an off-white solid: 1H-NMR (CDCl3; 400 MHz): δ 8.26 (d, 2H, J=8.8 Hz), 7.97 (br s, 1H), 7.42 (d, 2H, J=8.8 Hz), 3.62-3.52 (m, 1H), 3.02-2.93 (m, 2H), 2.84-2.74 (m, 2H).

reactant | 1-(4-methoxy-benzyl)-4-(4-nitro-phenyl)-piperidine-2,6-dione | 64.2 mmol, 22.8 g | COC1=CC=C(CN2C(CC(CC2=O)C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C19H18N2O5
solvent | CH3CN | 150 mL | CC#N | C2H3N
solvent | water | 100 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 4-(4-Nitro-phenyl)-piperidine-2,6-dione | [N+](=O)([O-])C1=CC=C(C=C1)C1CC(NC(C1)=O)=O | C11H10N2O4
